US04261993
A solution of carbon disulphide (16 cc) and triethylamine (4.5 cc) in pyridine (20 cc) is cooled to -10° C. A solution of 5-amino-3-ethoxymethylisoquinoline (6.5 g) in pyridine (20 cc) is added dropwise in the course of 5 minutes. The mixture is stirred for 3 hours at -10° C. and a solution of dicyclohexylcarbodiimide (6.6 g) in pyridine (20 cc) is then added. Stirring is continued, whilst leaving the reaction mixture to return to a temperature of about 20° C. The mixture is stirred for 24 hours at this temperature and then concentrated to dryness at 50° C. under reduced pressure (20 mm Hg). The residue is taken up in methylene chloride (25 cc). An insoluble material is filtered off and the filtrate is evaporated to dryness at 40° C. under reduced pressure (20 mm Hg). The residue is taken up in diisopropyl ether (200 cc). The isoluble yellow solid is isolated by filtration, washed with diisopropyl ether (20 cc) and dried. 3-Ethoxymethyl-5-isothiocyanatoisoquinoline (7 g), melting at 66° C., is obtained.

reactant | carbon disulphide | 16 cc | C(=S)=S | CS2
reactant | triethylamine | 4.5 cc | C(C)N(CC)CC | C6H15N
reactant | 5-amino-3-ethoxymethylisoquinoline | 6.5 g | NC1=C2C=C(N=CC2=CC=C1)COCC | C12H14N2O
reactant | dicyclohexylcarbodiimide | 6.6 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | pyridine | 20 cc | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 20 cc | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 20 cc | N1=CC=CC=C1 | C5H5N
product | 3-Ethoxymethyl-5-isothiocyanatoisoquinoline | 7 g | C(C)OCC=1N=CC2=CC=CC(=C2C1)N=C=S | C13H12N2OS
